US06979696B2
To a solution of 7-Azaindole (Aldrich Chemical Co. Cat No. A9,550-2, 4.12 g, 34.9 mmol) in 33% acetic acid (43 ml) was added Hexamethylenetetramine (7.3 g, 5.2 mmol) and the reaction was heated at reflux for 6 hours. The reaction mixture was cooled to room temperature and diluted with ice water (100 ml). The mixture was then left at 0° C. for 18 h. to crystallize product. The beige powder was filtered and washed with water to provide 7-azaindole-2-carboxaldehyde (2.95 g, 58%). 1H NMR (DMSO-d6) δ:7.28 (1H, dd, J=4.8 Hz, 7.9 Hz), 8.37 (1H, dd, J=1.6 Hz, 4.8 Hz), 8.42 (1H, dd, J=1.6 Hz, 7.9 Hz), 8.47 (1H, s), 9.94 (s, 1H).

reactant | 7-Azaindole | N1C=CC2=CC=CN=C12 | C7H6N2
reactant | Hexamethylenetetramine | 5.2 mmol, 7.3 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | acetic acid | 43 ml | C(C)(=O)O | C2H4O2
product | 7-azaindole-2-carboxaldehyde | 2.95 g, 58% | N1C(=CC2=CC=CN=C12)C=O | C8H6N2O
